US08022206B2
(6-Chloro[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methanol
A mixture of 3-chloro-6-hydrazinopyridazine (1.44 g, 9.96 mmol), glycolic acid (0.76 g, 10 mmol) and p-TsOH.H2O (2.37 g, 12.4 mmol) in toluene was refluxed overnight. Some oil formed at the bottom of the flask. LC-MS of this oil showed the desired product was formed. Toluene was decanted off, and the oil residue was suspended in water (10 mL), then basified with 3N aq. NaOH to pH=10, the resulting off-white solid was collected, and dried to give the title compound. LC-MS (ES+): 185/187 (3/1) [MH+]. 1H NMR (CDCl3): δ=2.96 (br s, 1H, —OH), 5.25 (s, 2H), 7.17 (d, J=9.6 Hz, 1H), 8.11 (d, J=9.6 Hz, 1H).

reactant | 3-chloro-6-hydrazinopyridazine | 9.96 mmol, 1.44 g | ClC=1N=NC(=CC1)NN | C4H5ClN4
reactant | glycolic acid | 10 mmol, 0.76 g | C(CO)(=O)O | C2H4O3
reactant | p-TsOH.H2O | 12.4 mmol, 2.37 g | CC=1C=CC(=CC1)S(=O)(=O)O.O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (6-Chloro[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methanol | ClC=1C=CC=2N(N1)C(=NN2)CO | C6H5ClN4O
